US07419989B2
1-(Methanesulfonyl)-3-(methylamino)piperidine was prepared from N3-Cbz protected 3-methylamino-piperidine: i) CH3S(O)2Cl, i-Pr2NEt, CH2Cl2; ii) H2 (1 atm), 10% Pd/C, EtOH. (m/z): [M+H]+ calcd for C7H16N2O2S 193.10; found, 193.0. 1H-NMR (DMSO-d6; TFA salt): δ (ppm) 3.4 (dd, 1H), 3.2 (m, 2H), 3.10 (s, 3H), 3.0-2.9 (m, 2H), 2.8 (s, 3H), 1.85-1.75 (m, 2H), 1.6-1.4 (m, 2H).

reactant | 3-methylamino-piperidine | CNC1CNCCC1 | C6H14N2
reactant | CH3S(O)2Cl | CS(=O)(=O)Cl | CH3ClO2S
reactant | i-Pr2NEt | CCN(C(C)C)C(C)C | C8H19N
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | Pd/C | [Pd] | Pd
solvent | EtOH | CCO | C2H6O
product | 1-(Methanesulfonyl)-3-(methylamino)piperidine | CS(=O)(=O)N1CC(CCC1)NC | C7H16N2O2S
